US09371319B2
Preparation 153: 6-Bromo-2-(1-(difluoromethyl)-1H-pyrazol-4-yl)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridine
1-(Difluoromethyl)-4-ethynyl-1H-pyrazole (Preparation 152, 187 mg 1.31 mmole) was dissolved in DMF (4.2 mL) and N-(2-bromo-5-iodopyridin-4-yl)methanesulfonamide (Preparation 8, 444 mg 1.17 mmole) was added. To the solution was added triethylamine (0.80 mL, 576 mg 5.7 mmole) and copper(I) iodide (9 mg 0.047 mmole). The reaction was sealed and flushed with nitrogen. Bis(triphenylphosphine)palladium dichloride (37.6 mg 0.046 mmole) was added and the reaction was again flushed with nitrogen, then heated at 60° C. for 140 minutes. The reaction was added to ethyl acetate (45 mL) and washed with water (3×15 mL) and with brine, then dried and concentrated in vacuo. The residue was purified using preparative TLC eluting with 5% ethyl acetate in chloroform to afford the title compound 157 mg. 1H-NMR (d6-acetone, 500 MHz): δ 3.37 (s, 3H), 7.06 (d, J=0.63 Hz, 1H), 7.70 (t, J=59.6 Hz, 1H), 8.04 (s, 1H), 8.16 (m, 1H), 8.51 (s, 1H), 8.73 (d, J=0.95 Hz, 1H).

reactant | 1-(Difluoromethyl)-4-ethynyl-1H-pyrazole | 1.31 mmole, 187 mg | FC(N1N=CC(=C1)C#C)F | C6H4F2N2
reactant | N-(2-bromo-5-iodopyridin-4-yl)methanesulfonamide | 1.17 mmole, 444 mg | BrC1=NC=C(C(=C1)NS(=O)(=O)C)I | C6H6BrIN2O2S
reactant | triethylamine | 5.7 mmole, 0.80 mL, 576 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 4.2 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.047 mmole, 9 mg | [Cu]I
catalyst | Bis(triphenylphosphine)palladium dichloride | 0.046 mmole, 37.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Bromo-2-(1-(difluoromethyl)-1H-pyrazol-4-yl)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridine | 157 mg | BrC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C=2C=NN(C2)C(F)F | C12H9BrF2N4O2S
